US08802704B2
Step 2: tert-butyl N-(tert-butoxycarbonyl)-N-(3-cyanobenzyl)-beta-alaninate
To a solution of tert-butyl 3-[(3-cyanobenzyl)amino]propanoate (3.7 g, 14.2 mmol) in anhydrous THF (100 mL) was added di-tert-butyl dicarbonate (3.1 g, 14.2 mmol). The resulting mixture was heated at 50° C. for 6 hours. The reaction mixture was then concentrated under reduced pressure affording the title compound as a pale yellow liquid (5.0 g, 98%). 1H NMR (DMSO-d6, 400 MHz) δ 7.73 (t, 1H), 7.63 (s, 1H), 7.55 (d, 2H), 4.41 (s, 2H), 3.31 (t, 2H), 2.40 (t, 2H), 1.36 (m, 18H).

reactant | tert-butyl 3-[(3-cyanobenzyl)amino]propanoate | 14.2 mmol, 3.7 g | C(#N)C=1C=C(CNCCC(=O)OC(C)(C)C)C=CC1 | C15H20N2O2
reactant | di-tert-butyl dicarbonate | 14.2 mmol, 3.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl N-(tert-butoxycarbonyl)-N-(3-cyanobenzyl)-beta-alaninate | 5.0 g, 98% | C(C)(C)(C)OC(=O)N(CCC(=O)OC(C)(C)C)CC1=CC(=CC=C1)C#N | C20H28N2O4
